US05169431
A mixture of 5-amino-2-chloro-4-fluorothiophenol (8.89 g) and anhydride potassium carbonate (3.5 g) was dissolved in N,N-dimethylformamide (100 ml), and 2,3-dichloropropene (6.65 g) was added thereto. The resultant mixture was stirred at 20° to 40° C. for 4 hours. After completion of the reaction, the reaction mixture was extracted with ether,washed with water, dried and concentrated. The residue was purified by silica gel chromatography (eluent: hexane/ethyl acetate=7/1) to give 4-chloro-2-fluoro-5-(2-chloro-2-propenylthio)aniline (10.5 g; yield, 84%).

reactant | 5-amino-2-chloro-4-fluorothiophenol | 8.89 g | NC=1C(=CC(=C(C1)S)Cl)F | C6H5ClFNS
reactant | 2,3-dichloropropene | 6.65 g | ClC(=C)CCl | C3H4Cl2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-chloro-2-fluoro-5-(2-chloro-2-propenylthio)aniline | 10.5 g, 84% | ClC1=CC(=C(N)C=C1SCC(=C)Cl)F | C9H8Cl2FNS
